US08471005B2
(7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine (88 mg, 0.23 mmol), 3H-Benzo[c][1,2]oxaborol-1-ol (74 mg, 0.56 mmol), Cesium Carbonate (192 mg, 0.589 mmol) and Bis(tri-tert-butylphosphine)palladium (18 mg, 0.035 mmol) were placed in a vial. N,N-Dimethylformamide (4.0 mL, 52 mmol) was added to the mixture, which was “degassed” under vacuum with cooling on dry ice. The mixture was then heated in an 85° C. block under an atmosphere of Nitrogen for 2 h, then conc. in vacuo. The residue was purified on ISCO (24 g load cartridge with DCM:MeOH, then dried; 12 g column, 0-15% MeOH:DCM) to afford (2-{2-[4-(4-Methyl-piperazin-1-yl)-phenylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-phenyl)-methanol (71 mg; Yield=75%) as an orange foam. LCMS (HPLC): 0.75 min, 415 (M+H); 1H-NMR (DMSO-d6): 9.18 (s, 1H), 8.94 (s, 1H), 7.68 (d, 1H, J=7.5 Hz), 7.63 (d, 1H, J=7.5 Hz), 7.48 (m, 3H), 7.43 (m, 1H), 6.92 (d, 1H, J=4.5 Hz), 6.88 (d, 1H, J=4.5 Hz), 6.74 (d, 2H, J=9.0 Hz), 5.11 (t, 1H, J=5.3 Hz), 4.45 (d, 2H, J=5.3 Hz), 3.01 (m, 4H), 2.44 (m, 4H), 2.22 (s, 3H).

reactant | (7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine | 0.23 mmol, 88 mg | BrC1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)N2CCN(CC2)C | C17H19BrN6
reactant | 3H-Benzo[c][1,2]oxaborol-1-ol | 0.56 mmol, 74 mg | B1(OCC2=C1C=CC=C2)O | C7H7BO2
reactant | Cesium Carbonate | 0.589 mmol, 192 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N,N-Dimethylformamide | 52 mmol, 4.0 mL | CN(C=O)C | C3H7NO
catalyst | Bis(tri-tert-butylphosphine)palladium | 0.035 mmol, 18 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
product | (2-{2-[4-(4-Methyl-piperazin-1-yl)-phenylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-phenyl)-methanol | 71 mg, Yield=75% | CN1CCN(CC1)C1=CC=C(C=C1)NC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)CO | C24H26N6O
